US05554542
The methyl ester of the isothiazolones were hydrolyzed to the free acids. 5-Chloro-2-(3-methoxycarbonylpropyl)-3-isothiazolone (4.0 g) was taken up in 6 ml of acetic acid. To this stirred solution at room temperature was added 6M aqueous HCl (7 ml). This solution was then stirred at room temperature for 24 hours, during which time a white precipitate formed. The solution was filtered and the filtrate further concentrated to yield more of the same precipitate (5-chloro-2-(3-hydroxy-carbonylpropyl)-3-isothiazolone). The combined yield was 2.95 g (m.p. 158°-161° C.).

reactant | 5-Chloro-2-(3-methoxycarbonylpropyl)-3-isothiazolone | 4.0 g | ClC1=CC(N(S1)CCCC(=O)OC)=O | C8H10ClNO3S
reactant | HCl | 6M, 7 ml | Cl | ClH
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 5-chloro-2-(3-hydroxy-carbonylpropyl)-3-isothiazolone | ClC1=CC(N(S1)CCC(O)=C=O)=O | C7H6ClNO3S
